US05977110
Trans-{4-[2-oxo-2-(4-phenyl-piperazin-1-yl)-ethyl]-cylohexyl}-carbamic acid tert-butyl ester (18.1 g, 0.045 mol) was taken up in MeOH (275 mL) and treated with 4 M HCl in dioxane (56 mL, 0.224 mol) and allowed to stand 22 hours. Concentration to dryness yielded a solid which was treated with 2N NaOH (175 mL) and extracted with CH2Cl2. The extracts were washed with water, brine, and dried (Na2SO4). After evaporation of the solvent, the residue was crystallized in Et2O yielding trans-{4-[2-oxo-2-(4-phenyl-piperazin-1-yl)-ethyl]-cyclohexyl}-amine as a white solid, 11.2 g (83%); mp 90-93° C.

reactant | Trans-{4-[2-oxo-2-(4-phenyl-piperazin-1-yl)-ethyl]-cylohexyl}-carbamic acid tert-butyl ester | 0.045 mol, 18.1 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CC(N1CCN(CC1)C1=CC=CC=C1)=O)=O | C23H35N3O3
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 0.224 mol, 56 mL | O1CCOCC1 | C4H8O2
reactant | NaOH | 2N, 175 mL | [OH-].[Na+]
solvent | MeOH | 275 mL | CO | CH4O
product | trans-{4-[2-oxo-2-(4-phenyl-piperazin-1-yl)-ethyl]-cyclohexyl}-amine | O=C(C[C@@H]1CC[C@H](CC1)N)N1CCN(CC1)C1=CC=CC=C1 | C18H27N3O
